US05149824
Preparation of p-iodo-N-phenylmaleimide:
The title compound was prepared by standard maleimide procedures involving the reaction of p-iodoaniline with maleic anhydride and then subsequent cyclization with acetic anhydride and sodium acetate.

reactant | maleimide | C1(C=CC(N1)=O)=O | C4H3NO2
reactant | p-iodoaniline | IC1=CC=C(N)C=C1 | C6H6IN
reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
product | p-iodo-N-phenylmaleimide | IC1=CC=C(C=C1)N1C(C=CC1=O)=O | C10H6INO2
